US09056874B2
a) (±)-2-(1-Amino-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (0.52 g, 0.76 mmol) was added 1.25 M HCl in MeOH (6.12 mL, 7.65 mmol) and heated at 60° C. for 30 minutes. The reaction was concentrated and then diluted with MeOH (5 mL). Cs2CO3 (4 g, 12.28 mmol) was added and the reaction was heated at 60° C. After 2 hours the reaction was complete. Reaction was then cooled and quenched with 10 mL of a saturated aq. solution of ammonium chloride and diluted with 50 mL of ethyl acetate. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organics layers were dried over magnesium sulfate, concentrated and purified by flash chromatography [0-10% (10% ammonium hydroxide in MeOH)-DCM] to provide the title compound. 1H NMR (400 MHz, DMSO-d6 with ˜5 μL TFA) δ ppm 11.23 (br. s., 1H) 8.82 (br. s., 3H) 7.47-7.76 (m, 1H) 7.35 (t, J=2.97 Hz, 1H) 6.87 (s, 1H) 5.94 (dd, J=3.16, 1.77 Hz, 1H) 3.50 (s, 3H) 2.04-2.37 (m, 3H). HRMS calcd. for C20H13N6O (M+H)+ 346.1663. found 346.1663.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C35H49N5O5SSi
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.76 mmol, 0.52 g | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C35H49N5O5SSi
reactant | HCl | 1.25 M | Cl | ClH
reactant | MeOH | 7.65 mmol, 6.12 mL | CO | CH4O
reactant | Cs2CO3 | 12.28 mmol, 4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
product | (±)-2-(1-Amino-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C)(C1=C2C=CNC2=C(C=C1OC)C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H19N5O
